US08048881B2
49.1. 4-{(S)-4-tert-butoxycarbonyl-2-[(2-phenyl-6-propylamino-pyrimidine-4-carbonyl)-amino]-butyryl}-piperazine-1-carboxylic acid ethyl ester
4-{(S)-4-tert-butoxycarbonyl-2-[(6-chloro-2-phenyl-pyrimidine-4-carbonyl)-amino]-butyryl}-piperazine-1-carboxylic acid ethyl ester (53 mg) and propylamine (31 μl) were dissolved in THF (0.5 ml). The mixture was stirred at 40° C. until reaction completion. Water was added and it was extracted with EA. The org. layers were dried (Na2SO4) and evaporated off to give 60 mg of the desired pure compound.

reactant | 4-{(S)-4-tert-butoxycarbonyl-2-[(6-chloro-2-phenyl-pyrimidine-4-carbonyl)-amino]-butyryl}-piperazine-1-carboxylic acid ethyl ester | 53 mg | C(C)OC(=O)N1CCN(CC1)C([C@H](CCC(=O)OC(C)(C)C)NC(=O)C1=NC(=NC(=C1)Cl)C1=CC=CC=C1)=O | C27H34ClN5O6
reactant | propylamine | 31 μl | C(CC)N | C3H9N
reactant | Water | O | H2O
solvent | THF | 0.5 ml | C1CCOC1 | C4H8O
product | 4-{(S)-4-tert-butoxycarbonyl-2-[(2-phenyl-6-propylamino-pyrimidine-4-carbonyl)-amino]-butyryl}-piperazine-1-carboxylic acid ethyl ester | C(C)OC(=O)N1CCN(CC1)C([C@H](CCC(=O)OC(C)(C)C)NC(=O)C1=NC(=NC(=C1)NCCC)C1=CC=CC=C1)=O | C30H42N6O6
